US06800629B2
In 15 mL of acetonitrile was dissolved 0.3 g of 3-chloro-2-pyrazinecarbonitrile. At an ice-cooled temperature, 10% fluorine gas (a fluorine gas diluted with nitrogen gas) was introduced into the solution at a rate of 45 mL per minute for a period of 20 minutes. Then, while elevating the temperature from the ice-cooled temperature to room temperature, nitrogen gas was introduced over a period of one hour. The reaction mixture was concentrated under reduced pressure and the oily product thus obtained was purified by silica gel column chromatography [eluent: n-hexane:ethyl acetate=10:1] to obtain 0.12 g of 3-chloro-6-fluoro-2-pyrazinecarbonitrile as a colorless oily product.

reactant | 3-chloro-2-pyrazinecarbonitrile | 0.3 g | ClC=1C(=NC=CN1)C#N | C5H2ClN3
reactant | fluorine | FF | F2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 3-chloro-6-fluoro-2-pyrazinecarbonitrile | 0.12 g | ClC=1C(=NC(=CN1)F)C#N | C5HClFN3
